US05532235
(E) and (Z)-4,5,6,7-Tetrahydro-4-(hydroxyimino)-3-benzofurancarboxylic acid
To a solution of 30.0 g of 4,5,6,7-tetrahydro-4-oxo-3-benzofurancarboxylic acid in 225 ml of ethanol is added 22.97 g of hydroxylamine hydrochloride, followed by 18.10 g of sodium acetate and 55 ml of water. The reaction mixture is heated at reflux for 2.5 hours and concentrated in vacuo to a residue which is diluted with 600 ml of ethyl acetate, washed with 2×200 ml of water, brine and dried over Na2SO4. The organic layer is concentrated in vacuo to a residue which is dried under vacuum to give 31.0 g of the desired product as a solid.

reactant | 4,5,6,7-tetrahydro-4-oxo-3-benzofurancarboxylic acid | 30.0 g | O=C1CCCC2=C1C(=CO2)C(=O)O | C9H8O4
reactant | hydroxylamine hydrochloride | 22.97 g | Cl.NO
reactant | sodium acetate | 18.10 g | C(C)(=O)[O-].[Na+]
reactant | water | 55 ml | O | H2O
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | (Z)-4,5,6,7-Tetrahydro-4-(hydroxyimino)-3-benzofurancarboxylic acid | 31.0 g | O\N=C/1\CCCC2=C1C(=CO2)C(=O)O | C9H9NO4
